US08895313B2
2-(4-Amino-2-trifluoromethylphenyl)-6-methoxybenzothiazole
Prepared as described in the Nitro Reduction section using 2-(4-nitro-2-trifluoromethylphenyl)-6-methoxybenzothiazole (0.6 g, 1.69 mmol) and tin (II) dichloride dihydrate (3.06 g, 13.56 mmol) in EtOH (35 ml) to give the title compound (0.51 g, 93%) as a colourless solid after work-up and flash chromatography (30:1 DCM/EtOAc).

reactant | 2-(4-nitro-2-trifluoromethylphenyl)-6-methoxybenzothiazole | 1.69 mmol, 0.6 g | [N+](=O)([O-])C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC)C(F)(F)F | C15H9F3N2O3S
reactant | tin (II) dichloride dihydrate | 13.56 mmol, 3.06 g | O.O.[Sn](Cl)Cl
reactant | DCM EtOAc | C(Cl)Cl.CCOC(=O)C
solvent | EtOH | 35 ml | CCO | C2H6O
product | 2-(4-Amino-2-trifluoromethylphenyl)-6-methoxybenzothiazole | 0.51 g, 93% | NC1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC)C(F)(F)F | C15H11F3N2OS
